US04166115
2-(3-Chloro-4-hydroxyphenyl)glyoxylic acid (6.45 g.) and O-methylhydroxylamine hydrochloride (2.74 g.) were reacted according to a similar manner to that of Preparation (5-3)(a) to give oil of 2-methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid (a mixture of syn and anti isomers) (7 g.).

reactant | 2-(3-Chloro-4-hydroxyphenyl)glyoxylic acid | 6.45 g | ClC=1C=C(C=CC1O)C(C(=O)O)=O | C8H5ClO4
reactant | O-methylhydroxylamine hydrochloride | 2.74 g | Cl.CON
product | 2-methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid | CON=C(C(=O)O)C1=CC(=C(C=C1)O)Cl | C9H8ClNO4
